US04107309
5-(4-Methyl-1-piperazinyl)-imidazo[1,2-d]-as-triazine
A 5.0 gm. portion of 5-(methylthio)-imidazo[1,2-d]-as-triazine is combined with 45 ml. of N-methylpiperazine and refluxed for 5 hours. The reaction mixture is evaporated giving a brown oil. This oil is triturated four times with 30 ml. portions of hot benzene. The combined benzene solutions are treated with charcoal, evaporated to 75 ml., retreated with charcoal, cooled and filtered, giving 1.0 gm. of the desired product, m.p. 176°-178° C. This base forms non-toxic acid-addition salts with a variety of pharmacologically acceptable organic and inorganic salt-forming reagents. Thus, acid-addition salts, formed by admixture of the organic free base with an equivalent of an acid, suitably in a neutral solvent, are formed with such acids as sulfuric, phosphoric hydrochloric, sulfamic, citric, lactic, tartaric, acetic, benzoic, gluconic, ascorbic, and related acids. For purposes of this invention, 5-(4-methyl-1-piperazinyl)-imidazo[1,2-d]-as-triazine is equivalent to its non-toxic acid-addition salts.

reactant | 5-(methylthio)-imidazo[1,2-d]-as-triazine | CSC1=NN=CC=2N1C=CN2 | C6H6N4S
reactant | N-methylpiperazine | CN1CCNCC1 | C5H12N2
product | 5-(4-Methyl-1-piperazinyl)-imidazo[1,2-d]-as-triazine | CN1CCN(CC1)C1=NN=CC=2N1C=CN2 | C10H14N6
